US08067445B2
Step 1: N-Ethyl-N-benzylcarbamoyl Chloride
N-Ethylbenzylamine (0.56 mL, 3.8 mmol) and diisopropylethylamine (1 mL, 5.7 mmol) were combined in CH2Cl2 (12 mL) and cooled to 0° C. Phosgene (20% in toluene; 2.4 mL, 4.6 mmol) was added, and the reaction was stirred overnight at room temperature. The mixture was concentrated, and the residue was dissolved in Et2O and washed twice with H2O. The organic layer was dried, filtered, and concentrated to give the title compound.

reactant | N-Ethylbenzylamine | 3.8 mmol, 0.56 mL | C(C)NCC1=CC=CC=C1 | C9H13N
reactant | diisopropylethylamine | 5.7 mmol, 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Phosgene | 4.6 mmol, 2.4 mL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 12 mL | C(Cl)Cl | CH2Cl2
product | N-Ethyl-N-benzylcarbamoyl Chloride | C(C)N(C(=O)Cl)CC1=CC=CC=C1 | C10H12ClNO
